Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
C7 fracture, episode of hypotension and hypoxemia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yrs. old male with a history of 
rheumatoid arthritis, psoriasis, hypertension, asymmetric septal 
hypertrophic cardiomyopathy, and sick sinus syndrome status post 
pacemaker in ___.  He presents after falling down approximately 
___ stairs in his home after drinking approximately 6 drinks (3 
beers and 3 whiskey).  He clearly recalls tripping and denies 
feeling faint, dizzy, or weak prior to falling.  During the fall 
he hit several parts of his body including his head, back, and 
shoulder.  He complains of most of the pain in his neck and 
back.  He does not recall part of the fall, and believes that he 
may have briefly lost consciousness after the fall.  The fall 
was unwitnessed, but his wife was in the home with him.  She 
describes him as having a glazed look after the fall.  Initially 
Ms. ___ was taken to ___ but due to concern for a 
cervical fracture of C7 on CT he was brought to ___ for 
neurosurgical consult.   
                                  
In the ___ ED, initial VS were T: 97.7, HR: 68, BP: 134/70, 
RR: 16, SaO2: 97% RA.  Physical exam was notable for ___ 
strength in the bilateral UE and ___, light touch sensation 
intact, CNII-XII intact.
Labs showed a BMP within normal limits and was notable for a WBC 
count of 11.5, Hgb 14.2, and BNP 78.  Imaging showed there is no 
evidence of an acute intrathoracic, intraabdominal, nor pelvic 
injury. There is a T12 anterior vertebral body compression 
fracture without CT findings to suggest acuity. Read of CT scans 
at ___ showed no fracture of C7.  In the ED Mr. ___ 
received Oxycodone 5mg, Ondansetron 4mg, Atorvastatin 40mg, and 
1L NS bolus in the ED.  Neurosurgey evaluated the patient and 
recommended a hard collar (Aspen medium collar) when out of bed 
for 8 weeks duration.  Decision was made to admit to medicine 
for further management.  Of note at 3AM this morning, while in 
the ED, Mr. ___ experienced the sudden onset of flushing and 
sweating that spontaneously resolved within 2 minutes.  He 
experienced a similar episode around 6 AM this morning that was 
witnessed by medical providers.  During the episode he became 
hypotensive to ___ and bradycardic to ___.  He was given 2L 
of NS and his vital signs normalized.  Due to this episode the 
decision was made to admit Mr. ___ to medicine.  Transfer VS 
were T: 98, HR: 61, BP: 145/65, RR: 18, SaO2: 95% 2L NC.  On 
arrival to the floor, patient reports continued diffuse pain, 
particularly in the back and the neck.  He denies any shortness 
of breath or difficulty with deep breathing. He states being 
comfortable but sore.  He denies acute or new pain in his legs 
but does endorse soreness that is due to RA. 

Previous workup for RA and hypertrophic cardiomyopathy showed 
pulmonary nodules on chest scans. Mr. ___ had an ACE that was 
mildly elevated and a diagnosis of possible sarcoid with overlap 
of RA was contemplated. He was scheduled to see pulmonology and 
in ___ while in ___ for vacation when he became 
bradycardic and passed out. He was taken to ___. Per records he 
was seen by pulmonology and had testing with cardiac MRI and was 
not thought to have sarcoidosis. He was diagnosed with 
hypertrophic cardiomyopathy and a pacer was placed. Since pacer 
placed feels more winded.

Most recent pacemaker interrogation ___:
Manufacturer: ___
Model: Adapta L 
Implant date: ___ 
Indication: syncope, SSS
Underlying rhythm: sinus brady with intact AV conduction
Current Mode: AAI<=>DDDR    50/130
Atrial pacing: 40%
Ventricular pacing: 0.5%
Battery: 2.79V
Estimated Longevity: ___   

REVIEW OF SYSTEMS:  
(+) ___ month history of congested cough the resolved recently
(-) Fever, chills, night sweats, vision changes, rhinorrhea, 
congestion, sore throat, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria. 
 
All other 10-system review negative in detail.  

 
Past Medical History:
OSTEOARTHRITIS, UNSPEC 
Hyperlipidemia 
Psoriasis 
Hypertrophic cardiomyopathy 
Pacemaker reprogramming/check 
Essential hypertension 
SSS (sick sinus syndrome) 
Rheumatoid arthritis involving both knees with positive 
rheumatoid factor 

Surgical Hx: Appendectomy, L (___) and R (___) hip 
replacement, L lithotripsy, ureteral stent placement,
 
Social History:
___
Family History:
Father passed away from an MI at age ___.  Aunt with ovarian 
cancer in late ___.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  T: 98.1 BP 160/91 HR: 69 RR: 18 SaO2: 93 on 2L NC
GENERAL: Wearing neck collar, not in acute distress  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, 
NECK: deferred due to wearing neck brace
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing limited by 
neck brace  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, trace pitting edema in the bilateral 
lower extremities, moving all 4 extremities with purpose, mild 
RA changes of right foot digits
NEURO: CN II-XII intact  
SKIN: warm and well perfused, notable erythematous plaques on 
right and left elbow  

DISCHARGE PHYSICAL EXAM:
VS - Tmax 97.7 Tc 97.4 HR ___ BP 131/74-176/90 RR 18 02 sat 
93% on RA  (93-99% on 2L NC)
General: well appearing, sitting upright, uncomfortable, wearing 
neck collar 
HEENT: MMM, EOMI, PERRL, nares clear 
Neck: not assessed due to patient wearing neck collar  
CV: RRR, no m/r/g  
Lungs: CTAB, breathing hindered by collar
Abdomen: soft, nontender, nondistended, normoactive bowel sounds
Ext: warm and well perfused, pulses, 1+ pitting edema in 
bilateral lower extremity  
Neuro: grossly normal 
 
Pertinent Results:
===============
ADMISSION LABS
===============
___ 06:40AM BLOOD WBC-11.5* RBC-4.38* Hgb-14.2 Hct-42.3 
MCV-97 MCH-32.4* MCHC-33.6 RDW-12.7 RDWSD-45.4 Plt ___
___ 06:40AM BLOOD Neuts-80.0* Lymphs-11.4* Monos-7.0 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-9.20* AbsLymp-1.31 
AbsMono-0.80 AbsEos-0.03* AbsBaso-0.03
___ 06:40AM BLOOD Glucose-125* UreaN-17 Creat-0.7 Na-138 
K-4.1 Cl-105 HCO3-22 AnGap-15
___ 07:23PM BLOOD cTropnT-<0.01
___ 06:40AM BLOOD proBNP-78

===============
IMAGING/STUDIES
===============

Second Opinion CT Neuro
IMPRESSION: 
1. Vertical obliquely oriented lucency at the left C7 superior 
facet extending to the left transverse process could represent a 
nondisplaced fracture or an artifact.  If there is clinical 
concern, MRI of the cervical spine can further evaluate 
ligamentous injury. 
2. Multilevel degenerative changes of the cervical spine, most 
severe at C5-6 with near complete loss of disc height. 
3. Grade 1 anterolisthesis of C4 over C5 and grade 1 
retrolisthesis of C5 over C6 due to degenerative changes. 

___ CTA CHEST:
IMPRESSION:    
1.  No evidence of pulmonary embolism or aortic abnormality. 
2.  Prominent right paratracheal and right hilar 
lymphadenopathy. 
3.  There is a 3 mm right middle lobe pulmonary nodule for which 
a follow-up chest CT in 12 months is recommended if patient is 
high risk for lung cancer and no follow-up needed if patient is 
low risk for lung cancer. 

___ C-SPINE FLEX AND EXT XR
IMPRESSION:    
The cervical spine is incompletely imaged, with only the C1 thru 
C6 levels visualized.  The known C7 fracture is not visualized 
or evaluated.  Approximately 5 mm of anterolisthesis of the C4 
on C5 vertebral bodies, unchanged between flexion and extension 
views noting lack of full excursion between the two views. 

CT CHEST/ABD/PEL W/ CONTRAST
IMPRESSION:   
1. There is no evidence of an acute intrathoracic, 
intra-abdominal, nor pelvic injury. 
2. There is a T12 anterior vertebral body compression fracture 
without CT findings to suggest acuity. 
3. Borderline enlarged 1 cm right paratracheal and 1 cm right 
hilar lymph node as described above. 
4. There is a 3 mm right middle lobe pulmonary nodule for which 
a follow-up chest CT in 12 months is recommended if patient is 
high risk for lung cancer and no follow-up needed if patient is 
low risk for lung cancer.   
RECOMMENDATION(S):  There is a 3 mm right middle lobe pulmonary 
nodule for which a follow-up chest CT in 12 months is 
recommended if patient is high risk for lung cancer and no 
follow-up needed if patient is low risk for lung cancer. 

===============
MICROBIOLOGY
===============
___ 12:20AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:20AM URINE RBC-1 WBC-0 Bacteri-NONE Yeast-NONE 
Epi-<1

===============
DISCHARGE LABS
===============

___ 07:10AM BLOOD WBC-7.3 RBC-4.54* Hgb-14.1 Hct-44.0 
MCV-97 MCH-31.1 MCHC-32.0 RDW-12.7 RDWSD-45.2 Plt ___
___ 07:10AM BLOOD Glucose-94 UreaN-17 Creat-0.8 Na-137 
K-4.7 Cl-100 HCO3-26 AnGap-16
___ 07:10AM BLOOD ALT-45* AST-66* AlkPhos-85 TotBili-0.6
___ 07:10AM BLOOD Albumin-4.0 Calcium-9.0 Phos-2.9 Mg-2.1

 
Brief Hospital Course:
Mr. ___ is a ___ male with a history of rheumatoid 
arthritis, psoriasis, hypertension, asymmetric septal 
hypertrophic cardiomyopathy, and sick sinus syndrome status post 
pacemaker in ___. He presented after falling down approximately 
___ stairs in his home after drinking approximately 6 drinks. 
CT imaging at ___ showed a C7 fracture. He was transferred 
to ___ for neurosurgical evaluation. While being evaluated for 
this fracture he had one episode of hypotension and hypoxia that 
spontaneously resolved in minutes. He was admitted to ___ for 
this indication.

 # C7 Fracture
CT C-spine showed "vertical obliquely oriented lucency at the 
left C7 superior facet extending to the left transverse process 
could represent a nondisplaced fracture or an artifact." Pt was 
unable to get MRI for further assessment of fracture vs. 
ligamentous injury because of pacemaker. Neurosurgery was 
consulted and recommended 8 weeks in a hard collar. Pain was 
managed with around the clock Tylenol, ibuprofen (which pt takes 
for RA), and PO oxycodone PRN for breakthrough pain. Pt 
discharged with a small amount of oxycodone, and a prescription 
for narcan.

#Hypoxia: 
Mr. ___ had two episodes of flushing and shortness of breath, 
one of which was associated with hypoxemia and hypotension (with 
transient BP of ___ that improved without intervention). 
Subsequent to this, the pt was put on 2L supplemental oxygen. 
The episode was likely vasovagal given spontaneous resolution, 
negative CTA, correctly functioning pacemaker (interrogated 
while in-house), normal hemoglobin, no acute findings on 
CT-chest or CTA-chest. Mr. ___ required ___ of oxygen via 
nasal cannula for occasional desaturations, mostly at night. He 
was asymptomatic during these episodes and remained alert, 
oriented, and ambulatory. On further exploration of outpatient 
records, he was noted to have office O2 saturations in the low 
___ on room air. On the day of discharge, he was satting in the 
low ___ on room air, with no ambulatory desaturations.

#Mild Transaminitis:
Patient had a fall in the setting of drinking.  His AST was 66 
and ALT was 45.  CT abdomen showed "the liver demonstrates 
homogenous attenuation throughout.  There is no evidence of 
focal lesions.  There is no evidence of intrahepatic or 
extrahepatic biliary dilatation." Previous outpatient records 
show normal AST and ALT.  There is not available record of HBV 
or HCV testing.  The mild transaminiits can be explained by the 
patient's drinking.  It is also possible there is component of 
mild hepatic steatosis. Repeat LFTs outpatient. Check hepatitis 
B and C antibodies outpatient.

# 3 mm right middle lobe nodule

Chronic Issues:

#Rheumatoid Arthritis: 
Previously trialed on sulfasalazine but was not able to tolerate 
the medication, considering trialing methotrexate and has 
scheduled follow-up with his outpatient provider. Continued 
ibuprofen 800mg Daily.

#HTN: Continue home Lisinopril 5mg.

#HCM s/p pacemaker, SSS: Pacer function normal with acceptable 
lead measurements and
battery status

====================
Transitional Issues:
====================
- C7 Fracture: Wear Aspen Collar for 8 weeks and follow-up with 
neurosurgery (Dr. ___ in 3 months for repeat CT C-Spine and 
further evaluation
- Paratracheal and Hilar adenopathy seen on chest CT and CTA: 
Minimally enlarged (~1 cm), consider following outpatient.
- follow-up chest CT in 12 months for 3 mm right middle lobe 
nodule
- Hypoxemia: Consider sleep study if continued nighttime 
desaturation. Consider rheumatology follow-up to evaluate for RA 
involvement of lungs. Cardiology follow up to consider TTE
- Pt should have PFTs checked to assess lung function given RA 
and hypoxemia
pulmonary nodule in the setting of past smoking. 
- f/u PCP for BP monitoring and adjustment of anti-hypertensives
- Mild Transaminitis: Recheck LFTs in ___ months. Please also 
check HBV and HCV, and consider RUQ US.
- Please counsel patient on EtOH use (seen by SW during this 
admission)
- New Medications: Oxycodone ___ Q4H, Acetaminophen 1g Q6H

**Incidental findings on CT torso** 
- non acute T12 anterior vertebral body compression fracture per
CT 
- borderline enlarged 1 cm right paratracheal and 1 cm right
hilar lymph node 
- 3 mm right middle lobe pulmonary nodule 
- renal calculi 
- diverticulosis 
- old healed left seventh and eighth rib fractures 

#Contact: Wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Lisinopril 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Ibuprofen 800 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
Do not drink alcohol while taking this medication. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours as 
needed Disp #*120 Tablet Refills:*0 
2.  Narcan (naloxone) 4 mg/actuation nasal ONCE 
RX *naloxone [Narcan] 4 mg/actuation 4 mg intranasal as needed 
for respiratory depression with oxycodone Disp #*1 Spray 
Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
Opioids can cause respiratory depression, only adjust the dose 
in consultation with your doctor. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours PRN Disp 
#*30 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Ibuprofen 800 mg PO DAILY  
7.  Lisinopril 5 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: C7 fracture

Secondary Diagnoses: Hypoxemia, mechanical fall, transaminitis, 
rheumatoid arthritis, hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ on ___.

WHY WAS I HERE?
- You had a fracture of your neck, specifically your seventh 
cervical vertebrae, that required neurosurgical evaluation.  
While being evaluated for this fracture you had low oxygen in 
the blood and you blood pressure and heart rate dropped.  You 
were admitted to the hospital to evaluate the cause of your low 
blood pressure and low heart rate.

WHAT WAS DONE FOR ME?
- You were evaluated by neurosurgery who determined that you had 
a neck fracture and determined that you need to wear a neck 
brace for 8 weeks.
- You had a CT scan of your chest and abdomen which showed no 
additional injuries beyond your neck fracture.
- Your pacemaker was evaluated and was determined to be 
functioning correctly and had no explanation for your fall or 
low heart rate and blood pressure.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to wear your neck brace for the next 8 
weeks.
- You should continue to use your incentive spirometer to ensure 
that you are completely filling your lungs with air.
- You should follow-up with Dr. ___ in neurosurgery in 3 
months.

It was a pleasure taking care of you and we wish you good 
health.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___